US07288537B2
A solution of (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol (0.158 g, 0.58 mmol) and (5-Cyclopropyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid phenyl ester (0.150 g, 0.58 mmol) in DMSO (3 ml) is stirred at ambient temperature for 6 hours, then partitioned between water and ethylacetate. The organic phase is washed again with water, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with a 10:90 methanol/dichloromethane) to afford 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-yl)-urea. [M+H] 434.33.

reactant | (S)-2-amino-4-[3-(4-chloro-phenoxy)-azetidin-1-yl]-butan-1-ol | 0.58 mmol, 0.158 g | N[C@H](CO)CCN1CC(C1)OC1=CC=C(C=C1)Cl | C13H19ClN2O2
reactant | (5-Cyclopropyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid phenyl ester | 0.58 mmol, 0.150 g | C1(=CC=CC=C1)OC(NC=1N(N=C(C1)C1CC1)C)=O | C14H15N3O2
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-3-(5-cyclopropyl-2-methyl-2H-pyrazol-3-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(=O)NC=2N(N=C(C2)C2CC2)C)C=C1 | C21H28ClN5O3
